US09371320B2
B) tert-butyl 2-(2,2-dimethylcyclopentyl)hydrazinecarboxylate
To a solution of tert-butyl 2-(2,2-dimethylcyclopentylidene)hydrazinecarboxylate (4.6 g) and acetic acid (9.4 g) in THF (80 mL) was added sodium cyanoborohydride (5.1 g) at room temperature. The reaction mixture was stirred at 85° C. for 10 hr, aqueous sodium hypochlorite solution was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/petroleum ether) to give the title compound (2.4 g).

reactant | tert-butyl 2-(2,2-dimethylcyclopentylidene)hydrazinecarboxylate | 4.6 g | CC1(C(CCC1)=NNC(=O)OC(C)(C)C)C | C12H22N2O2
reactant | acetic acid | 9.4 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 5.1 g | C(#N)[BH3-].[Na+]
reactant | sodium hypochlorite | Cl[O-].[Na+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | tert-butyl 2-(2,2-dimethylcyclopentyl)hydrazinecarboxylate | 2.4 g | CC1(C(CCC1)NNC(=O)OC(C)(C)C)C | C12H24N2O2
